US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)-pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (136 mg, 14%) was prepared as an off-white powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.7 (br s, 1H), 8.39 (s, 1H), 8.33 (s, 1H), 8.07 (br s, 2H), 7.55-7.01 (m, 6H), 6.41-6.17 (m, 1H), 5.07-4.85 (m, 2H), 3.73-3.62 (m, 7H), 3.11-2.98 (m, 8H), 2.73 (s, 3H);

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)-pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride | 136 mg, 14% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)CN1CCN(CC1)C | InChI=1S/C25H32N6O.ClH/c1-28-10-12-31(13-11-28)17-21-14-19(16-27-25(21)26)8-9-24(32)29(2)18-22-15-20-6-4-5-7-23(20)30(22)3;/h4-9,14-16H,10-13,17-18H2,1-3H3,(H2,26,27);1H/b9-8+;
